US05744488
Methyl 5-amino-3-(3-pyridylmethyl)-1H-indole-1-propanoate
A mixture of methyl 5-nitro-3-(3-pyridylmethyl)-1H-indole-1-propanoate (1.20 g) and 10% palladium on carbon (120 mg) in methanol (75 ml) was hydrogenated at 50° C. and 4.5 atm. until reduction was complete (2hours). The mixture was filtered and the catalyst was washed well with methanol. The filtrate and washings were combined and evaporated to give the title compound as an oil (1.05 g), Rf. 0.2(SS2). δ(CDCl3): 2.76(2H,t), 3.45(2H,br), 3.63(3H,s), 3.98(2H,s), 4.32(2H,t), 6.66-6.68(1H,dd), 6.72(1H,d), 6.77(1H,s), 7.11(1H,d), 7.14-7.18(1H,m), 7.48-7.51(1H,m), 8.42-8.44(1H,m), 8.56(1H,d).

reactant | methyl 5-nitro-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 1.20 g | [N+](=O)([O-])C=1C=C2C(=CN(C2=CC1)CCC(=O)OC)CC=1C=NC=CC1 | C18H17N3O4
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
solvent | methanol | 75 ml | CO | CH4O
product | Methyl 5-amino-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 1.05 g | NC=1C=C2C(=CN(C2=CC1)CCC(=O)OC)CC=1C=NC=CC1 | C18H19N3O2
